US05410049
A suspension of 1,5-dihydro-4-hydroxy-3-(3-nitrophenyl )-2H-pyrrol-2-one (0.6 g, 2.7 mmol) in methanol (30 ml) was hydrogenated at 30 psi using a palladium on carbon catalyst (200 mg, 35% (w /w)), for 10 min. The catalyst was filtered off and the solvent evaporated in vacuo. The residue was azeotroped with toluene (2×20 ml) and then triturated with ether (20 ml). 3-(3-Aminophenyl)-1,5-dihydro-4-hydroxy-2H-pyrrol-2-one (0.43 g, 84%) was isolated as a pale yellow solid. mp 262°-265° C. (dec.). 1H NMR (360MHz, D6 -DMSO) δ3.80 (2H, s), 6.37 (1H, d, J=8Hz), 6.93 (1H, dd, J=8 and 8Hz), 7.12 (1H, d, J =7Hz), 7.22 (1H, s), 7.45 (1H, s).

reactant | 1,5-dihydro-4-hydroxy-3-(3-nitrophenyl )-2H-pyrrol-2-one | 2.7 mmol, 0.6 g | OC1=C(C(NC1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H8N2O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 3-(3-Aminophenyl)-1,5-dihydro-4-hydroxy-2H-pyrrol-2-one | 0.43 g, 84% | NC=1C=C(C=CC1)C=1C(NCC1O)=O | C10H10N2O2
